US07456164B2
Intermediate 88: 4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile
A solution of 4-(4-hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile (5 g, 25 mmol), t-butyldimethylsilyl chloride (4.46 g, 29 mmol) and imidazole (2.34 g, 34 mmol) were stirred in DMF (15 ml) at room temperature. After 30 minutes, a yellow suspension was observed. The reaction was partitioned between ether (75 ml) and water (100 ml). The ether was then washed further with water (4×50 ml), dried over sodium sulphate, filtered and concentrated in vacuo. The title compound was isolated as a pale orange waxy solid (7 g, 90%).

reactant | 4-(4-hydroxy-phenyl)-tetrahydro-pyran-4-carbonitrile | 25 mmol, 5 g | OC1=CC=C(C=C1)C1(CCOCC1)C#N | C12H13NO2
reactant | t-butyldimethylsilyl chloride | 29 mmol, 4.46 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 34 mmol, 2.34 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)tetrahydro-2H-pyran-4-carbonitrile | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1(CCOCC1)C#N | C18H27NO2Si
